R1 (net390 net47) R=8.7E2
R2 ( net1 net205)  R=0.9E5
T3 ( net205 net205 net386 vdd!)  pfet  L=1.88E-6 W=4.72E-6
T4 ( net386 net67 vdd! vdd!)  pfet  L=1.88E-6 W=4.72E-6
T5 ( net67 net67 vdd! vdd!)  pfet  L=1.88E-6 W=4.72E-6
T6 ( vdd! net205 net67 vdd!)  pfet  L=1.88E-6 W=4.72E-6
R7 (net347 vdd!) R=8.7E6
T8 (net129 vdd! vdd! 0) pfet L=2.36E-6 W=0.47E-6
R9 ( vdd! net390)  R=9.1E0
T10 ( net390 net390 0 0)  nfet  L=9.79E-6 W=3.23E-6
T11 ( net348 net390 0 0)  nfet  L=9.79E-6 W=3.23E-6
T12 (net137 net152 net152 0) nfet L=4.68E-6 W=7.43E-6
R13 ( net311 net13)  R=6.5E0
T14 ( net13 net13 net31 vdd!)  pfet  L=6.84E-6 W=2.45E-6
T15 ( net31 net127 vdd! vdd!)  pfet  L=6.84E-6 W=2.45E-6
T16 ( net127 net127 vdd! vdd!)  pfet  L=6.84E-6 W=2.45E-6
T17 ( net231 net13 net127 vdd!)  pfet  L=6.84E-6 W=2.45E-6
T18 (net385 net74 net74 0) pfet L=0.82E-6 W=0.78E-6
R19 ( net120 net12)  R=5.1E1
T20 ( net12 net12 net296 vdd!)  pfet  L=6.38E-6 W=7.42E-6
T21 ( net296 net212 vdd! vdd!)  pfet  L=6.38E-6 W=7.42E-6
T22 ( net212 net212 vdd! vdd!)  pfet  L=6.38E-6 W=7.42E-6
T23 ( net213 net12 net212 vdd!)  pfet  L=6.38E-6 W=7.42E-6
C24 (net128 net68) C=2.9E-10
R25 (net82 net185) R=2.7E3
C26 (0 net163) C=5.0E-10
R27 ( net242 net10)  R=5.9E0
T28 ( net10 net10 0 0)  nfet  L=5.82E-6 W=9.21E-6
T29 ( net315 net10 0 0)  nfet  L=5.82E-6 W=9.21E-6
R30 (net16 net208) R=1.0E4
T31 (0 net294 net294 0) pfet L=7.24E-6 W=8.66E-6
R32 (net346 net71) R=1.5E0
T33 (net17 net293 net293 0) pfet L=2.97E-6 W=9.60E-6
T34 (net20 net285 net285 0) nfet L=6.66E-6 W=8.20E-6
R35 (net28 net349) R=3.1E2
T36 (net145 net322 net322 0) pfet L=5.34E-6 W=0.37E-6
T37 ( net382 net382 0 0)  nfet  L=6.62E-6 W=5.65E-6
T38 ( net94 net382 0 0)  nfet  L=6.62E-6 W=5.65E-6
R39 ( net94 net208)  R=8.1E1
T40 (net47 net233 net233 0) pfet L=0.70E-6 W=3.25E-6
T41 (net65 net175 net175 0) pfet L=0.13E-6 W=5.52E-6
T42 (net308 net140 net140 0) nfet L=2.44E-6 W=4.65E-6
T43 (vdd! net53 net53 0) nfet L=4.95E-6 W=2.70E-6
R44 ( net367 net38)  R=1.8E0
T45 ( net38 net38 0 0)  nfet  L=5.26E-6 W=7.67E-6
T46 ( net219 net38 0 0)  nfet  L=5.26E-6 W=7.67E-6
R47 (net1 net324) R=6.9E6
C48 (net332 net299) C=8.0E-8
C49 (net299 0) C=5.0E-8
T50 (net275 net223 net223 0) pfet L=7.85E-6 W=1.19E-6
R51 ( vdd! net231)  R=8.6E1
T52 ( net231 net254 vdd! vdd!)  pfet  L=2.01E-6 W=1.49E-6
T53 ( net125 net254 vdd! vdd!)  pfet  L=2.01E-6 W=1.49E-6
T54 ( net179 net231 net125 vdd!)  pfet  L=2.01E-6 W=1.49E-6
R55 (net353 net222) R=1.4E4
T56 ( net82 net82 vdd! vdd!)  pfet  L=5.14E-6 W=3.71E-6
T57 ( net63 net82 vdd! vdd!)  pfet  L=5.14E-6 W=3.71E-6
R58 ( net63 net335)  R=3.3E3
C59 (net30 net365) C=1.0E-11
T60 ( net99 net99 0 0)  nfet  L=5.74E-6 W=7.28E-6
T61 ( net329 net99 0 0)  nfet  L=5.74E-6 W=7.28E-6
R62 ( net329 vdd!)  R=0.1E4
C63 (net79 net146) C=4.3E-5
T64 (net311 net369 net369 0) nfet L=2.27E-6 W=1.43E-6
T65 (net113 net290 net290 0) pfet L=2.76E-6 W=5.22E-6
R66 ( net120 net372)  R=5.3E5
T67 ( net372 net372 net317 vdd!)  pfet  L=1.91E-6 W=4.83E-6
T68 ( net317 net49 vdd! vdd!)  pfet  L=1.91E-6 W=4.83E-6
T69 ( net49 net49 vdd! vdd!)  pfet  L=1.91E-6 W=4.83E-6
T70 ( net299 net372 net49 vdd!)  pfet  L=1.91E-6 W=4.83E-6
C71 (net200 0) C=1.7E-14
R72 ( vdd! net233)  R=4.0E2
T73 ( net233 net139 vdd! vdd!)  pfet  L=2.94E-6 W=1.31E-6
T74 ( net124 net139 vdd! vdd!)  pfet  L=2.94E-6 W=1.31E-6
T75 ( net350 net233 net124 vdd!)  pfet  L=2.94E-6 W=1.31E-6
C76 (vdd! net70) C=0.2E-13
T77 (vdd! net357 net357 0) nfet L=1.91E-6 W=1.11E-6
C78 (net62 net259) C=0.5E-12
R79 ( net236 net27)  R=2.5E4
T80 ( net27 net102 vdd! vdd!)  pfet  L=5.09E-6 W=0.69E-6
T81 ( net223 net102 vdd! vdd!)  pfet  L=5.09E-6 W=0.69E-6
T82 ( net130 net27 net223 vdd!)  pfet  L=5.09E-6 W=0.69E-6
R83 (net153 net326) R=2.6E3
T84 ( vdd! vdd! 0 0)  nfet  L=2.27E-6 W=3.42E-6
T85 ( net381 vdd! 0 0)  nfet  L=2.27E-6 W=3.42E-6
R86 ( net381 0)  R=3.3E1
T87 (net256 net25 net25 0) nfet L=4.29E-6 W=4.46E-6
R88 ( net304 net117)  R=3.1E4
T89 ( net117 net306 0 0)  nfet  L=2.78E-6 W=2.36E-6
T90 ( net207 net306 0 0)  nfet  L=2.78E-6 W=2.36E-6
T91 ( vdd! net117 net306 0)  nfet  L=2.78E-6 W=2.36E-6
C92 (net34 net356) C=5.9E-13
R93 ( net362 net29)  R=6.8E6
T94 ( net29 net313 0 0)  nfet  L=5.49E-6 W=9.88E-6
T95 ( net175 net313 0 0)  nfet  L=5.49E-6 W=9.88E-6
T96 ( vdd! net29 net313 0)  nfet  L=5.49E-6 W=9.88E-6
R97 (net6 net44) R=9.3E0
R98 ( net216 net162)  R=4.5E0
T99 ( net162 net162 0 0)  nfet  L=1.98E-6 W=9.51E-6
T100 ( net50 net162 0 0)  nfet  L=1.98E-6 W=9.51E-6
C101 (net176 net270) C=4.8E-13
C102 (net232 net43) C=9.6E-13
T103 ( 0 0 vdd! vdd!)  pfet  L=8.99E-6 W=6.85E-6
T104 ( net324 0 vdd! vdd!)  pfet  L=8.99E-6 W=6.85E-6
R105 ( net324 net131)  R=0.3E5
T106 (net134 net343 net343 0) nfet L=3.10E-6 W=9.71E-6
T107 ( net276 net276 vdd! vdd!)  pfet  L=6.33E-6 W=2.15E-6
T108 ( net143 net276 vdd! vdd!)  pfet  L=6.33E-6 W=2.15E-6
R109 ( net143 vdd!)  R=1.0E5
R110 (net75 net273) R=3.0E4
T111 (net312 net202 net202 0) nfet L=1.32E-6 W=8.16E-6
C112 (vdd! net258) C=3.0E-13
T113 (net156 net235 net235 0) pfet L=3.15E-6 W=5.86E-6
T114 (net321 net74 net74 0) nfet L=0.63E-6 W=5.23E-6
R115 ( net326 net299)  R=1.8E1
T116 ( net299 net299 net284 vdd!)  pfet  L=2.45E-6 W=8.65E-6
T117 ( net284 net71 vdd! vdd!)  pfet  L=2.45E-6 W=8.65E-6
T118 ( net71 net71 vdd! vdd!)  pfet  L=2.45E-6 W=8.65E-6
T119 ( net354 net299 net71 vdd!)  pfet  L=2.45E-6 W=8.65E-6
T120 (net215 net349 net349 0) nfet L=1.02E-6 W=9.01E-6
C121 (net20 net28) C=1.2E-8
R122 ( net165 net367)  R=8.5E1
T123 ( net367 net367 vdd! vdd!)  pfet  L=7.91E-6 W=6.91E-6
T124 ( net320 net367 vdd! vdd!)  pfet  L=7.91E-6 W=6.91E-6
C125 (net147 net301) C=4.8E-11
R126 ( net101 net300)  R=0.6E4
T127 ( net300 net119 0 0)  nfet  L=9.69E-6 W=4.71E-6
T128 ( net213 net119 0 0)  nfet  L=9.69E-6 W=4.71E-6
T129 ( net159 net300 net213 0)  nfet  L=9.69E-6 W=4.71E-6
T130 (net240 net120 net120 0) nfet L=7.56E-6 W=2.14E-6
R131 ( net185 net141)  R=2.9E6
T132 ( net141 net141 0 0)  nfet  L=0.33E-6 W=3.76E-6
T133 ( net226 net141 0 0)  nfet  L=0.33E-6 W=3.76E-6
T134 (net344 net336 net336 0) nfet L=0.81E-6 W=8.79E-6
R135 ( net164 net75)  R=4.7E3
T136 ( net75 net222 0 0)  nfet  L=4.96E-6 W=7.44E-6
T137 ( net287 net222 0 0)  nfet  L=4.96E-6 W=7.44E-6
T138 ( net128 net75 net287 0)  nfet  L=4.96E-6 W=7.44E-6
T139 (net274 net138 net138 0) nfet L=9.80E-6 W=6.60E-6
R140 ( net290 net269)  R=1.7E0
T141 ( net269 net269 net109 vdd!)  pfet  L=7.22E-6 W=2.97E-6
T142 ( net109 net215 vdd! vdd!)  pfet  L=7.22E-6 W=2.97E-6
T143 ( net215 net215 vdd! vdd!)  pfet  L=7.22E-6 W=2.97E-6
T144 ( 0 net269 net215 vdd!)  pfet  L=7.22E-6 W=2.97E-6
T145 (net211 net283 net283 0) pfet L=5.84E-6 W=1.97E-6
R146 (net363 net245) R=7.7E1
C147 (net331 net238) C=8.0E-5
R148 ( net208 net54)  R=5.6E2
T149 ( net54 net54 net56 vdd!)  pfet  L=2.37E-6 W=8.42E-6
T150 ( net56 net328 vdd! vdd!)  pfet  L=2.37E-6 W=8.42E-6
T151 ( net328 net328 vdd! vdd!)  pfet  L=2.37E-6 W=8.42E-6
T152 ( net100 net54 net328 vdd!)  pfet  L=2.37E-6 W=8.42E-6
T153 (0 net25 net25 0) nfet L=5.65E-6 W=7.35E-6
R154 ( 0 net316)  R=1.1E5
T155 ( net316 net343 0 0)  nfet  L=4.31E-6 W=5.74E-6
T156 ( vdd! net343 0 0)  nfet  L=4.31E-6 W=5.74E-6
T157 ( vdd! net316 net343 0)  nfet  L=4.31E-6 W=5.74E-6
T158 (net44 net385 net385 0) nfet L=9.54E-6 W=3.19E-6
R159 ( net47 net330)  R=6.3E2
T160 ( net330 net330 net9 0)  nfet  L=8.97E-6 W=6.55E-6
T161 ( net9 net178 0 0)  nfet  L=8.97E-6 W=6.55E-6
T162 ( net178 net178 0 0)  nfet  L=8.97E-6 W=6.55E-6
T163 ( vdd! net330 net178 0)  nfet  L=8.97E-6 W=6.55E-6
C164 (net34 vdd!) C=5.6E-5
R165 ( net80 net290)  R=2.5E2
T166 ( net290 net189 vdd! vdd!)  pfet  L=4.43E-6 W=4.65E-6
T167 ( net359 net189 vdd! vdd!)  pfet  L=4.43E-6 W=4.65E-6
T168 ( 0 net290 net359 vdd!)  pfet  L=4.43E-6 W=4.65E-6
R169 (0 net174) R=5.3E6
C170 (vdd! net43) C=4.0E-7
R171 ( net255 net357)  R=0.1E0
T172 ( net357 net357 vdd! vdd!)  pfet  L=3.16E-6 W=0.43E-6
T173 ( net320 net357 vdd! vdd!)  pfet  L=3.16E-6 W=0.43E-6
R174 (net138 net41) R=8.6E3
R175 (0 net251) R=5.1E5
C176 (net183 vdd!) C=9.9E-10
C177 (net78 net227) C=4.5E-10
R178 (net248 net239) R=1.8E3
C179 (net286 net103) C=8.2E-12
R180 ( vdd! net171)  R=3.6E5
T181 ( net171 net121 0 0)  nfet  L=8.00E-6 W=6.86E-6
T182 ( net146 net121 0 0)  nfet  L=8.00E-6 W=6.86E-6
T183 ( net266 net171 net146 0)  nfet  L=8.00E-6 W=6.86E-6
R184 (net28 net362) R=0.9E6
R185 (net40 0) R=0.2E3
R186 ( net314 net326)  R=8.0E1
T187 ( net326 net326 net373 0)  nfet  L=3.62E-6 W=5.11E-6
T188 ( net373 net126 0 0)  nfet  L=3.62E-6 W=5.11E-6
T189 ( net126 net126 0 0)  nfet  L=3.62E-6 W=5.11E-6
T190 ( net363 net326 net126 0)  nfet  L=3.62E-6 W=5.11E-6
C191 (net19 net363) C=9.4E-5
T192 ( net52 net52 0 0)  nfet  L=4.47E-6 W=9.27E-6
T193 ( net43 net52 0 0)  nfet  L=4.47E-6 W=9.27E-6
R194 ( net43 net101)  R=8.5E2
C195 (net149 net115) C=4.0E-14
T196 ( 0 0 0 0)  nfet  L=8.63E-6 W=4.15E-6
T197 ( net211 0 0 0)  nfet  L=8.63E-6 W=4.15E-6
R198 ( net211 0)  R=1.8E2
R199 (net277 0) R=9.2E3
C200 (net104 net183) C=4.4E-7
C201 (net310 net236) C=1.4E-6
R202 ( net120 net62)  R=3.6E4
T203 ( net62 net62 net138 0)  nfet  L=9.23E-6 W=4.18E-6
T204 ( net138 net266 0 0)  nfet  L=9.23E-6 W=4.18E-6
T205 ( net266 net266 0 0)  nfet  L=9.23E-6 W=4.18E-6
T206 ( 0 net62 net266 0)  nfet  L=9.23E-6 W=4.18E-6
T207 (net148 net292 net292 0) pfet L=6.25E-6 W=6.61E-6
R208 ( net216 net134)  R=8.7E3
T209 ( net134 net341 0 0)  nfet  L=7.58E-6 W=0.69E-6
T210 ( net259 net341 0 0)  nfet  L=7.58E-6 W=0.69E-6
T211 ( net11 net134 net259 0)  nfet  L=7.58E-6 W=0.69E-6
T212 (vdd! net7 net7 0) pfet L=5.10E-6 W=4.00E-6
T213 (net82 net347 net347 0) pfet L=0.36E-6 W=9.62E-6
T214 ( net70 net70 vdd! vdd!)  pfet  L=2.37E-6 W=7.24E-6
T215 ( net203 net70 vdd! vdd!)  pfet  L=2.37E-6 W=7.24E-6
R216 ( net203 net74)  R=7.8E4
R217 (net177 net131) R=2.2E5
C218 (net60 net376) C=0.6E-5
R219 ( net129 net312)  R=5.0E0
T220 ( net312 net181 0 0)  nfet  L=4.15E-6 W=1.16E-6
T221 ( net122 net181 0 0)  nfet  L=4.15E-6 W=1.16E-6
T222 ( vdd! net312 net181 0)  nfet  L=4.15E-6 W=1.16E-6
T223 (vdd! net151 net151 0) pfet L=4.69E-6 W=2.07E-6
T224 (net243 net59 net59 0) pfet L=2.70E-6 W=3.65E-6
T225 (net74 net115 net115 0) nfet L=5.17E-6 W=9.65E-6
T226 (net325 vdd! vdd! 0) pfet L=7.41E-6 W=4.52E-6
R227 (net218 vdd!) R=9.3E4
T228 (net229 net130 net130 0) pfet L=3.10E-6 W=9.10E-6
R229 ( net106 net147)  R=6.4E2
T230 ( net147 net147 vdd! vdd!)  pfet  L=3.11E-6 W=4.62E-6
T231 ( vdd! net147 vdd! vdd!)  pfet  L=3.11E-6 W=4.62E-6
C232 (vdd! net2) C=2.7E-8
R233 ( net184 net323)  R=6.3E4
T234 ( net323 net323 net282 vdd!)  pfet  L=5.24E-6 W=4.62E-6
T235 ( net282 net110 vdd! vdd!)  pfet  L=5.24E-6 W=4.62E-6
T236 ( net110 net110 vdd! vdd!)  pfet  L=5.24E-6 W=4.62E-6
T237 ( net50 net323 net110 vdd!)  pfet  L=5.24E-6 W=4.62E-6
T238 (net194 net196 net196 0) nfet L=1.00E-6 W=7.30E-6
R239 ( net17 net93)  R=9.7E3
T240 ( net93 net93 net382 0)  nfet  L=6.09E-6 W=0.57E-6
T241 ( net382 net320 0 0)  nfet  L=6.09E-6 W=0.57E-6
T242 ( net320 net320 0 0)  nfet  L=6.09E-6 W=0.57E-6
T243 ( net369 net93 net320 0)  nfet  L=6.09E-6 W=0.57E-6
R244 (0 net168) R=4.9E1
T245 ( net277 net277 0 0)  nfet  L=8.37E-6 W=7.82E-6
T246 ( net277 net277 0 0)  nfet  L=8.37E-6 W=7.82E-6
R247 ( net277 vdd!)  R=6.8E5
T248 (net33 net73 net73 0) pfet L=8.79E-6 W=7.32E-6
T249 (net166 net221 net221 0) pfet L=1.84E-6 W=5.11E-6
T250 (0 net26 net26 0) nfet L=9.35E-6 W=2.49E-6
T251 (net226 net265 net265 0) nfet L=6.35E-6 W=9.94E-6
R252 ( net250 net244)  R=8.8E5
T253 ( net244 net244 net351 vdd!)  pfet  L=1.97E-6 W=0.99E-6
T254 ( net351 net112 vdd! vdd!)  pfet  L=1.97E-6 W=0.99E-6
T255 ( net112 net112 vdd! vdd!)  pfet  L=1.97E-6 W=0.99E-6
T256 ( net249 net244 net112 vdd!)  pfet  L=1.97E-6 W=0.99E-6
C257 (net170 net229) C=5.9E-8
R258 (net21 net168) R=2.8E3
T259 ( net107 net107 0 0)  nfet  L=9.90E-6 W=1.63E-6
T260 ( net325 net107 0 0)  nfet  L=9.90E-6 W=1.63E-6
R261 ( net325 net16)  R=8.2E5
C262 (net342 net19) C=3.0E-11
R263 ( net347 net350)  R=9.6E4
T264 ( net350 net350 net385 vdd!)  pfet  L=1.47E-6 W=1.26E-6
T265 ( net385 net115 vdd! vdd!)  pfet  L=1.47E-6 W=1.26E-6
T266 ( net115 net115 vdd! vdd!)  pfet  L=1.47E-6 W=1.26E-6
T267 ( net72 net350 net115 vdd!)  pfet  L=1.47E-6 W=1.26E-6
C268 (net353 net33) C=7.2E-8
R269 (net22 net366) R=3.1E0
T270 (net52 net157 net157 0) pfet L=5.29E-6 W=8.52E-6
R271 ( net74 net24)  R=9.4E1
T272 ( net24 net235 0 0)  nfet  L=6.92E-6 W=3.42E-6
T273 ( net322 net235 0 0)  nfet  L=6.92E-6 W=3.42E-6
T274 ( net101 net24 net322 0)  nfet  L=6.92E-6 W=3.42E-6
C275 (net387 net133) C=6.4E-14
T276 (net176 net257 net257 0) pfet L=4.18E-6 W=5.44E-6
C277 (net79 net197) C=9.5E-7
R278 ( net248 net288)  R=6.9E6
T279 ( net288 net288 net243 vdd!)  pfet  L=6.76E-6 W=3.78E-6
T280 ( net243 net338 vdd! vdd!)  pfet  L=6.76E-6 W=3.78E-6
T281 ( net338 net338 vdd! vdd!)  pfet  L=6.76E-6 W=3.78E-6
T282 ( net245 net288 net338 vdd!)  pfet  L=6.76E-6 W=3.78E-6
T283 (net145 0 0 0) pfet L=2.50E-6 W=1.27E-6
C284 (vdd! net51) C=0.6E-12
T285 (net23 net160 net160 0) pfet L=4.26E-6 W=0.95E-6
T286 (net227 net97 net97 0) pfet L=4.96E-6 W=8.22E-6
C287 (net68 net267) C=6.1E-14
T288 (net334 net72 net72 0) pfet L=3.58E-6 W=8.84E-6
C289 (net60 net375) C=2.9E-13
C290 (net74 net295) C=0.5E-13
T291 ( net179 net179 vdd! vdd!)  pfet  L=1.71E-6 W=2.79E-6
T292 ( net263 net179 vdd! vdd!)  pfet  L=1.71E-6 W=2.79E-6
R293 ( net263 net5)  R=9.4E3
T294 (net365 net95 net95 0) nfet L=3.77E-6 W=4.03E-6
R295 ( net272 net327)  R=2.7E0
T296 ( net327 net327 vdd! vdd!)  pfet  L=9.13E-6 W=8.95E-6
T297 ( net6 net327 vdd! vdd!)  pfet  L=9.13E-6 W=8.95E-6
R298 (net22 net238) R=8.1E4
T299 ( net177 net177 vdd! vdd!)  pfet  L=4.06E-6 W=2.48E-6
T300 ( net337 net177 vdd! vdd!)  pfet  L=4.06E-6 W=2.48E-6
R301 ( net337 net249)  R=0.1E6
T302 (net28 net218 net218 0) pfet L=1.99E-6 W=9.42E-6
C303 (net161 net353) C=4.3E-11
T304 (net245 net149 net149 0) pfet L=5.50E-6 W=8.61E-6
T305 (net48 net272 net272 0) nfet L=5.66E-6 W=6.23E-6
T306 (net200 net276 net276 0) nfet L=3.38E-6 W=5.63E-6
C307 (net275 net273) C=5.2E-7
T308 (net285 net87 net87 0) pfet L=7.67E-6 W=9.53E-6
C309 (net15 net170) C=3.3E-13
T310 (net361 net175 net175 0) nfet L=1.97E-6 W=9.72E-6
R311 (net105 net348) R=0.4E6
C312 (net383 net170) C=9.0E-11
R313 (net245 net73) R=6.4E2
T314 (net333 net130 net130 0) nfet L=9.84E-6 W=6.51E-6
C315 (net380 net163) C=8.4E-8
T316 (0 net374 net374 0) nfet L=2.80E-6 W=0.74E-6
C317 (net11 net355) C=2.4E-10
T318 (0 net169 net169 0) pfet L=7.64E-6 W=3.62E-6
T319 (net224 net361 net361 0) nfet L=5.54E-6 W=9.31E-6
T320 (net3 net347 net347 0) nfet L=8.49E-6 W=2.24E-6
T321 (vdd! net77 net77 0) pfet L=5.07E-6 W=9.32E-6
T322 (net364 net307 net307 0) nfet L=1.71E-6 W=2.81E-6
T323 (net89 0 0 0) nfet L=3.70E-6 W=1.60E-6
R324 (net176 vdd!) R=6.6E3
T325 (net37 net204 net204 0) pfet L=9.95E-6 W=0.49E-6
C326 (net218 net256) C=6.1E-8
T327 (net199 net85 net85 0) pfet L=5.75E-6 W=2.92E-6
T328 (net180 net155 net155 0) pfet L=9.82E-6 W=8.23E-6
T329 (net355 net46 net46 0) pfet L=1.37E-6 W=7.01E-6
R330 (net335 net16) R=3.2E4
T331 (net257 net22 net22 0) pfet L=8.52E-6 W=4.31E-6
T332 (net66 net50 net50 0) nfet L=6.75E-6 W=2.94E-6
C333 (net188 net87) C=9.6E-5
C334 (net51 net118) C=2.0E-10
C335 (vdd! net245) C=3.6E-9
C336 (net25 net221) C=2.5E-13
T337 (net292 net25 net25 0) nfet L=2.03E-6 W=2.60E-6
C338 (net4 net66) C=1.0E-14
R339 (0 net131) R=1.1E2
C340 (net72 net53) C=5.1E-14
T341 (net111 net230 net230 0) nfet L=8.54E-6 W=3.34E-6
T342 (net236 net340 net340 0) pfet L=1.09E-6 W=4.98E-6
T343 (net379 net230 net230 0) nfet L=9.61E-6 W=7.17E-6
T344 (net175 0 0 0) nfet L=1.47E-6 W=4.22E-6
R345 (net184 net369) R=3.8E4
C346 (net240 net193) C=4.6E-10
R347 (net224 net257) R=7.3E6
C348 (net148 net340) C=8.6E-13
T349 (net155 net305 net305 0) nfet L=1.22E-6 W=0.88E-6
R350 (net70 net279) R=4.5E5
T351 (net82 net340 net340 0) pfet L=7.65E-6 W=3.30E-6
R352 (net104 net366) R=1.8E4
C353 (net252 net184) C=0.5E-6
C354 (net2 net167) C=3.1E-11
T355 (net90 net130 net130 0) pfet L=1.79E-6 W=4.26E-6
R356 (net176 net73) R=2.8E5
C357 (vdd! net45) C=6.7E-12
T358 (net334 net257 net257 0) nfet L=6.18E-6 W=7.67E-6
T359 (net44 net196 net196 0) nfet L=2.85E-6 W=8.41E-6
R360 (net303 net218) R=3.1E6
R361 (net220 net17) R=8.1E1
C362 (net285 net26) C=0.1E-11
T363 (net202 net311 net311 0) pfet L=6.09E-6 W=0.24E-6
T364 (net314 net230 net230 0) nfet L=9.45E-6 W=9.65E-6
R365 (net86 net347) R=1.2E6
T366 (net260 net242 net242 0) nfet L=6.03E-6 W=6.21E-6
T367 (net197 net73 net73 0) nfet L=7.85E-6 W=9.41E-6
T368 (net234 net64 net64 0) nfet L=9.35E-6 W=4.47E-6
T369 (net258 net198 net198 0) nfet L=5.21E-6 W=3.64E-6
T370 (net50 net58 net58 0) pfet L=7.21E-6 W=0.66E-6
R371 (net20 net272) R=7.2E0
T372 (net185 net25 net25 0) nfet L=0.94E-6 W=2.14E-6
T373 (net20 net159 net159 0) nfet L=7.80E-6 W=9.41E-6
R374 (net118 net236) R=3.7E0
C375 (net253 net7) C=5.5E-5
C376 (net249 net179) C=8.4E-5
R377 (net91 net41) R=5.3E5
R378 (0 net1) R=3.9E2
C379 (net261 net96) C=9.5E-14
T380 (net69 net352 net352 0) nfet L=9.93E-6 W=6.81E-6
T381 (net380 0 0 0) pfet L=6.95E-6 W=6.32E-6
R382 (net170 net57) R=3.0E0
T383 (net270 net136 net136 0) nfet L=9.92E-6 W=5.92E-6
C384 (net302 net46) C=8.1E-10
C385 (net47 net42) C=8.5E-7
R386 (net281 net229) R=7.3E3
R387 (net7 net258) R=5.8E4
T388 (net47 0 0 0) nfet L=1.48E-6 W=7.04E-6
C389 (net158 net22) C=1.0E-8
R390 (net58 0) R=8.2E4
T391 (0 net45 net45 0) pfet L=7.62E-6 W=4.75E-6
R392 (net64 net289) R=1.8E4
T393 (net281 net210 net210 0) pfet L=2.12E-6 W=8.32E-6
R394 (net177 net364) R=4.0E0
R395 (net128 net356) R=6.4E3
T396 (net238 net309 net309 0) pfet L=7.66E-6 W=2.71E-6
R397 (net35 net339) R=1.7E1
R398 (net230 net249) R=7.0E2
C399 (net97 0) C=0.5E-7
T400 (0 net202 net202 0) nfet L=6.15E-6 W=8.68E-6
T401 (net22 net190 net190 0) pfet L=0.69E-6 W=8.34E-6
T402 (net292 net193 net193 0) nfet L=8.62E-6 W=9.02E-6
R403 (net208 0) R=3.8E1
R404 (net89 net315) R=3.3E6
T405 (net105 net14 net14 0) nfet L=7.12E-6 W=6.58E-6
R406 (net195 net5) R=0.2E6
R407 (net380 net16) R=3.1E5
T408 (net103 net363 net363 0) nfet L=5.94E-6 W=3.35E-6
R409 (net202 net319) R=1.2E0
T410 (net179 0 0 0) pfet L=4.28E-6 W=2.65E-6
C411 (net163 net204) C=8.5E-10
C412 (net47 net152) C=6.3E-8
T413 (net333 net28 net28 0) nfet L=3.22E-6 W=5.06E-6
T414 (net97 vdd! vdd! 0) nfet L=3.57E-6 W=3.00E-6
R415 (net76 net1) R=9.3E2
T416 (0 net229 net229 0) pfet L=9.43E-6 W=6.26E-6
T417 (net55 net42 net42 0) pfet L=7.49E-6 W=8.96E-6
T418 (net148 net60 net60 0) pfet L=7.93E-6 W=6.50E-6
R419 (net99 net163) R=8.7E0
C420 (net111 net91) C=7.9E-12
R421 (net157 net105) R=8.8E3
T422 (net214 net358 net358 0) nfet L=1.31E-6 W=1.56E-6
C423 (net239 net176) C=5.7E-7
T424 (net184 net95 net95 0) pfet L=7.56E-6 W=6.02E-6
T425 (net198 net380 net380 0) pfet L=4.44E-6 W=9.26E-6
T426 (net332 net113 net113 0) nfet L=5.13E-6 W=3.64E-6
T427 (vdd! 0 0 0) pfet L=6.18E-6 W=8.49E-6
T428 (0 net278 net278 0) pfet L=5.18E-6 W=2.22E-6
T429 (net160 net118 net118 0) pfet L=8.03E-6 W=0.82E-6
T430 (net374 net19 net19 0) nfet L=4.09E-6 W=2.60E-6
T431 (net308 net335 net335 0) pfet L=9.44E-6 W=0.62E-6
R432 (net207 net8) R=0.7E1
C433 (net36 net319) C=9.1E-14
T434 (net224 net387 net387 0) nfet L=5.65E-6 W=2.47E-6
T435 (net83 net132 net132 0) nfet L=7.81E-6 W=4.08E-6
C436 (net193 net77) C=3.8E-6
R437 (net353 net92) R=9.4E5
R438 (net132 net304) R=2.8E1
T439 (net245 net228 net228 0) nfet L=8.00E-6 W=3.91E-6
T440 (net251 net271 net271 0) nfet L=0.16E-6 W=8.42E-6
T441 (net332 net37 net37 0) pfet L=4.66E-6 W=1.48E-6
T442 (0 net136 net136 0) pfet L=2.19E-6 W=5.54E-6
T443 (net41 net230 net230 0) nfet L=5.86E-6 W=8.28E-6
C444 (net224 net168) C=4.3E-8
R445 (net202 net172) R=8.9E2
C446 (net252 net368) C=1.5E-8
C447 (net229 net101) C=2.8E-10
C448 (net201 net128) C=7.8E-6
R449 (net197 net265) R=9.1E5
R450 (net236 net89) R=5.7E4
T451 (net388 net15 net15 0) nfet L=9.84E-6 W=4.07E-6
C452 (net196 0) C=1.8E-9
T453 (net150 net248 net248 0) pfet L=8.09E-6 W=8.16E-6
R454 (net164 net108) R=9.8E1
T455 (net39 net108 net108 0) nfet L=1.90E-6 W=7.11E-6
R456 (net128 net225) R=5.0E2
C457 (net97 net349) C=7.0E-8
R458 (net307 net219) R=6.5E0

